US07157488B2
3-Nitrodibenzofuran
Combine dibenzofurane (20.0 g, 0.11 mol) and acetic acid (80 ml). Heat to 65° C. Add 98% nitric acid (20.0 g, 11.8 mol). After 3 hours, cool to room temperature to give a solid. Collect the solid by filtration, rinse with water, and dry to give the title compound.

reactant | dibenzofurane | 0.11 mol, 20.0 g | C1=CC=CC=2OC3=C(C21)C=CC=C3 | C12H8O
reactant | nitric acid | 11.8 mol, 20.0 g | [N+](=O)(O)[O-] | HNO3
solvent | acetic acid | 80 ml | C(C)(=O)O | C2H4O2
product | 3-Nitrodibenzofuran | [N+](=O)([O-])C=1C=CC2=C(OC3=C2C=CC=C3)C1 | C12H7NO3
